US07943619B2
Cyclopentanecarboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (280 mg, 1 mmol) was converted, using cyclopentanecarbonyl chloride instead of methoxyacetyl chloride, to the title compound (295 mg, 78%) which was obtained as a white solid. MS: m/e=379.4 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 1 mmol, 280 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | cyclopentanecarbonyl chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
product | Cyclopentanecarboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide | 295 mg, 78% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)NC(=O)C1CCCC1 | C21H22N4O3
